US04048180
To stirred liquid ammonia (2 liters) was added ferric nitrate (0.1 gm) followed by sodium metal (8.0 gms) in 1 gram pieces over a period of 20 minutes. To the resulting solution was added 3-(4-pyridyl)-1-dimethylaminopentane (49 gms) over a period of 3 minutes and a deep yellow colour was allowed to develop over a period of 2 hours. Liquid ethylene oxide (14.6 gms) was then added and the mixture was stirred for a further 3 hours. Solid ammonium chloride (20 gms) was then added in small portions, followed by diethyl ether (1 liter). The ammonia was allowed to evaporate overnight and the residual mixture was filtered. The solvent was evaporated from the filtrate and the residual oil was distilled to yield 3-(4-pyridyl)-5-dimethylamino pentan-1-ol (32 gms, 46% conversion) b.p. 140°-146° C/0.5 mm Hg (m.p. 26° C).

reactant | ammonia | 2 liters | N | H3N
reactant | sodium | 8.0 gms | [Na] | Na
reactant | 3-(4-pyridyl)-1-dimethylaminopentane | 49 gms | N1=CC=C(C=C1)C(CCN(C)C)CC | C12H20N2
reactant | ethylene oxide | 14.6 gms | C1CO1 | C2H4O
reactant | ammonium chloride | 20 gms | [Cl-].[NH4+]
solvent | diethyl ether | 1 liter | C(C)OCC | C4H10O
product | 3-(4-pyridyl)-5-dimethylamino pentan-1-ol | 32 gms, 46% | N1=CC=C(C=C1)C(CCO)CCN(C)C | C12H20N2O
